US05480791
1) Preparation of 2-biphenyl diazonium chloride
First, 500 mg of o-aminobiphenyl was dissolved in 2.4 ml of 13.6% hydrochloric acid (4 molar equivalents), and the resulting solution was subjected to ultrasonic treatment for 10 minutes and then kept at the freezing point. To the solution at the freezing point was added dropwise 0.8 ml of a 25 % aqueous solution of sodium nitrite (1 molar equivalent) slowly while stirring. After the addition, the mixture was stirred at the freezing point for 2 hours, followed by addition of 0. 6 ml of saturated zinc chloride while stirring at the freezing point. This caused precipitation of zinc chloride double salt of diazonium chloride.

reactant | o-aminobiphenyl | 500 mg | NC1=C(C=CC=C1)C1=CC=CC=C1 | C12H11N
reactant | sodium nitrite | 1 molar | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 4 molar, 2.4 ml | Cl | ClH
catalyst | zinc chloride | 6 ml | [Cl-].[Zn+2].[Cl-]
product | 2-biphenyl diazonium chloride | [Cl-].C=1(C(=CC=CC1)[N+]#N)C1=CC=CC=C1 | InChI=1S/C12H9N2.ClH/c13-14-12-9-5-4-8-11(12)10-6-2-1-3-7-10;/h1-9H;1H/q+1;/p-1
